Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Breast Cancer metastatic to Brain
 
Major Surgical or Invasive Procedure:
Lumbar Puncture ___
 
History of Present Illness:
___ year old Female transferred for urgent neurosurgical 
evaluation for an occipital brain mass. The patient has a 
history of breast cancer, status post lumpectomy and mastectomy, 
chemotherapy and radiation on maintenance tamoxifen. She 
experienced a headache one month prior to admission, which 
lasted several days, but resolved. She states the headache 
recurred one week prior to admission in ___ where she 
works. She states the hospital gave her something that worked.  

She came to the ___ to visit a friend and noted a 
worsening of the headache on the flight. She went to ___ 
___ which noted the mass on CT. She underwent a ___ at 
___, and was noted to have a right cerebellar brain mass. 
She was started on dexamethasone and a PPI. She notes the 
development of left ptosis, visual blurring of her left eye and 
right hip parathesias. and she was transferred for neurosurgical 
and neuro-oncologic evaluation. 

Initial vitals in the ___ ED, 97.6, 78, 133/91, 7, 100%. She 
was seen by neurosurgery in the ED, who felt there was no need 
for neurosurgical intervention. 
 
Past Medical History:
Breast Cancer
Chemotherapy: finished ___
XRT: finished ___
Right mastectomy: ___
 
Social History:
___
Family History:
Mother: ___ Cancer, DM
Aunt: ___ Cancer
Cousin: ___ ___
 
Physical Exam:
ROS:
 GEN: - fevers, - Chills, - Weight Loss
 EYES: - Photophobia, + Visual Changes
 HEENT: - Oral/Gum bleeding
 CARDIAC: - Chest Pain, - Palpitations, - Edema
 GI: - Nausea, - Vomiting, - Diarrhea, - Abdominal Pain, - 
Constipation, - Hematochezia
 PULM: - Dyspnea, - Cough, - Hemoptysis
 HEME: - Bleeding, - Lymphadenopathy
 GU: - Dysuria, - hematuria, - Incontinence
 SKIN: - Rash
 ENDO: - Heat/Cold Intolerance
 MSK: - Myalgia, + Arthralgia, - Back Pain
 NEURO: - Numbness, - Weakness, - Vertigo, + Headache

 

Admission PHYSICAL EXAM:

VSS: 98.1, 121/87, 75, 99%
 GEN: NAD
 Pain: ___
 HEENT: EOMI, MMM, - OP Lesions, Note swollen right cheek
 PUL: CTA B/L
 COR: RRR, S1/S2, - MRG
 ABD: Mild RLQ TTP, ND, +BS, - CVAT
 EXT: - CCE
 NEURO: Left Ptosis, Anisicoria L>R, flattened right nasolabial 
fold, possible Left Tongue Deviation, Motor ___ ___: Flex/Ext, 
Motor ___: Finger spread

Discharge physical exam: 
Gen: Lying in bed in no apparent distress
HEENT: Anicteric, eyes conjugate, MMM, no JVD
Cardiovascular: RRR no MRG, nl. S1 and S2
Pulmonary: Lung fields clear to auscultation throughout
Gastroinestinal: Soft, non-tender, non-distended, bowel sounds
present, no HSM
MSK: No edema
Skin: No rashes or ulcerations evident
Neurological: CN ___ intact, full strength in UE and ___
bilaterally, no dysmetria apparent on finger to nose testing
bilaterally. 
Psychiatric: pleasant, appropriate affect

 
Pertinent Results:
___ 01:40AM BLOOD WBC-10.8* RBC-4.22 Hgb-12.1 Hct-36.0 
MCV-85 MCH-28.7 MCHC-33.6 RDW-14.3 RDWSD-44.0 Plt ___
___ 01:40AM BLOOD Neuts-92* Bands-3 Lymphs-2* Monos-2* 
Eos-0 Baso-0 Atyps-1* ___ Myelos-0 AbsNeut-10.26* 
AbsLymp-0.32* AbsMono-0.22 AbsEos-0.00* AbsBaso-0.00*
___ 01:40AM BLOOD Glucose-177* UreaN-17 Creat-0.6 Na-139 
K-3.7 Cl-103 HCO3-25 AnGap-15
___ 01:40AM BLOOD ALT-23 AST-12 AlkPhos-64 TotBili-0.4
___ 01:40AM BLOOD Albumin-3.3*
___ 10:35PM URINE Color-Straw Appear-Clear Sp ___
___ 10:35PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 10:35PM URINE UCG-NEGATIVE

CSF Cytology: + for adenocarcinoma

OSH ___ CT (uploaded to ___, ___ Read): Right 2.3cm low 
density lesion worrisome for metastatic disease. Recommend MRI 
brain with contrast

OSH Hip X-Ray: Unremarkable right hip

MR ___ ___: 1. 41 x 32 x 31 mm heterogeneously enhancing 
likely extra-axial posterior 
fossa mass, consistent with metastatic disease, with surrounding 
vasogenic 
edema, associated mass effect with complete effacement of the 
distal fourth 
ventricle and downward displacement of the cerebellar tonsils 
with crowding of 
the foramen magnum, with associated moderate hydrocephalus, as 
seen on the CT 
examination from 1 day prior. 
2. No other enhancing lesion is seen. 
3. No evidence of hemorrhage. 

CT Chest ___: No suspicious pulmonary nodules or masses.  No 
lymphadenopathy.  No pleural 
abnormalities.  Status post right breast surgery. 
  
CT Abdomen/Pelvis ___: 
1. Large soft tissue mass in the pelvis.  Although this could 
represent a 
pedunculated uterine fibroid, it is indeterminate.  Further 
evaluation with 
ultrasound is recommended. 
2. No pathologic lymphadenopathy or evidence of metastatic 
disease in the 
abdomen and pelvis. 

Pelvic Ultrasound ___: 
Transabdominal ultrasound only was performed.  An anteverted 
uterus is present that measures 9.9 x 5.6 x 5.4 cm.  The 
endometrium is normal measuring 4 mm.  Multiple fibroids are 
present, the largest extends from the fundus. Ultrasonically it 
measures 9 x 9 x 8.5 cm.  This corresponds with the masses seen 
on the CT. 
  
Neither ovary was identified. 
  
IMPRESSION:  
Pelvic masses seen on CT is a fibroid 

 
Brief Hospital Course:
1. Breast Cancer, Metastatic to Brain: CSF cytology returned 
positive for adenocarcinoma, confirming this is likely 
metastatic breast cancer, as opposed to meningioma, which was 
another diagnostic consideration. CT Chest demonstrated no signs 
of malignancy. CT A/P was notable for multiple pelvic masses 
with the appearance of fibroids; transabdominal ultrasound 
confirmed that these were fibroids. She was followed closely by 
___ (Dr. ___ and ___ Oncology (Dr. ___ 
___ during her stay. On ___ she went for radiation simulation 
and underwent her first of 10 planned treatments with whole 
brain radiation. She was also seen by Neurosurgery, who 
recommended against operative intervention. She was continued on 
Dexamethasone 4mg q6h on discharge. 

It should be noted that, at the time of this writing, it is 
still unclear whether or not her current health insurance will 
cover any of the medical costs resulting from this current stay. 


She has been cleared to return to ___ upon completion of 
her 10 radiation treatments, where she will follow-up with her 
local Oncologist, Dr. ___ (___), to discuss 
further treatment options. 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Dexamethasone 4 mg PO Q6H 
2. DimenhyDRINATE 50 mg PO TID 
3. Omeprazole 20 mg PO DAILY 
4. Tamoxifen Citrate 20 mg PO DAILY 
5. TraMADol 50 mg PO TID 

 
Discharge Medications:
1.  Dexamethasone 4 mg PO Q6H  
2.  DimenhyDRINATE 50 mg PO TID  
3.  Omeprazole 20 mg PO DAILY  
4.  Tamoxifen Citrate 20 mg PO DAILY  
5.  TraMADol 50 mg PO TID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Breast cancer with metastasis to the brain (posterior fossa)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure caring for you here at ___ in 
___. As you know, you were admitted to our hospital to be 
evaluated for a concerning brain mass seen on CAT scan. You were 
evaluated by multiple specialists including Dr. ___ from 
___, Dr. ___ from ___ Oncology, and Dr. 
___ with ___. You had a lumbar puncture 
performed, and the results from this study confirmed that the 
brain mass is likely due to spread (metastasis) of your previous 
breast cancer to your brain. On ___ you underwent your 
first of 10 planned radiation treatment to the brain, with the 
goal of shrinking the tumor. Upon completion of the radiation 
treatments, you are free to return to ___. ___. When you 
return, we encourage you to speak with your oncologist, Dr. 
___, to discuss further treatment options for your brain 
tumor. 
 
Followup Instructions:
___